US08211919B2
To a solution of 1-[(1R)-2-hydroxy-1-(2-thienyl)ethyl]-3-[4-(4-pyridinyl)phenyl]urea (700 mg) and acetic acid (734 mg) in dichloromethane (10 mL) were added N-chlorosuccinimide (303 mg) and the mixture was refluxed for 3 hours. The mixture was evaporated in vacuo and the residue was purified by column chromatography on silica gel eluting with chloroform/methanol (9:1) and crystallized from ethanol to afford 1-[(1R)-1-(5-chloro-2-thienyl)-2-hydroxyethyl]-3-[4-(4-pyridinyl)phenyl]urea (280 mg) as a crystal.

reactant | 1-[(1R)-2-hydroxy-1-(2-thienyl)ethyl]-3-[4-(4-pyridinyl)phenyl]urea | 700 mg | OC[C@H](C=1SC=CC1)NC(=O)NC1=CC=C(C=C1)C1=CC=NC=C1 | C18H17N3O2S
reactant | acetic acid | 734 mg | C(C)(=O)O | C2H4O2
reactant | N-chlorosuccinimide | 303 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-[(1R)-1-(5-chloro-2-thienyl)-2-hydroxyethyl]-3-[4-(4-pyridinyl)phenyl]urea | 280 mg | ClC1=CC=C(S1)[C@@H](CO)NC(=O)NC1=CC=C(C=C1)C1=CC=NC=C1 | C18H16ClN3O2S
